US04820834
2,3-Dihydro-2-oxo-5-phenyl-3-(((phenylmethoxy)carbonyl)amino)-1H-1,4-benzodiazepine-1-acetic acid ethyl ester
The procedure of Example 4 was employed using equimolar amounts of ethylbromoacetate and 1,3-dihydro-3(R,S)-(phenylmethyloxycarbonyl)amino-5-phenyl-2H-1,4-benzodiazepin-2-one. The chromatographed product (ethyl acetate-hexane) was dried in vacuo at room temperature over P2O5 : m.p. 65°-66° C.

reactant | ethylbromoacetate | C(C)OC(CBr)=O | C4H7BrO2
reactant | 1,3-dihydro-3(R,S)-(phenylmethyloxycarbonyl)amino-5-phenyl-2H-1,4-benzodiazepin-2-one | C1(=CC=CC=C1)COC(=O)NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C23H19N3O3
product | 2,3-Dihydro-2-oxo-5-phenyl-3-(((phenylmethoxy)carbonyl)amino)-1H-1,4-benzodiazepine-1-acetic acid ethyl ester | C(C)OC(CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)OCC2=CC=CC=C2)=O)=O | C27H25N3O5
